US03934008
3. Z-Thr(tBu)-Gln-Asn-Phe-OCH3
9.3 g of H-Gln-Asn-Phe-OCH3 hydrochloride and 11.9 g of Z-Thr(tBu)-OSU are dissolved in 150 ml of dimethylformamide to form a clear solution. 2.85 ml of triethylamine in 10 ml of dimethylformamide are added and the batch is stirred for 21 hours at room temperature. The batch is then concentrated under reduced pressure and taken up in much ethylacetate+chloroform (9:1), and extracted with 2 × 200 ml of 5% citric acid and 1 × 100 ml of water. The insoluble precipitate is then filtered off, the filtrate extracted with 2 × 200 ml of 2N-sodium carbonate solution and 3 × 100 ml of water, dried over sodium sulfate, and evaporated. The residue is recrystallized, together with the filter residue mentioned above, from dimethylformamide+ether (1:1). Melting point, 237°- 241°C (decomp.); [α]20D = + 8° (c = 1% in dimethylformamide).

reactant | H-Gln-Asn-Phe-OCH3 hydrochloride | 9.3 g | N[C@@H](CCC(N)=O)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC.Cl
reactant | Z-Thr(tBu)-OSU | 11.9 g | C[C@H]([C@@H](C(=O)ON1C(=O)CCC1=O)NC(=O)OCC2=CC=CC=C2)OC(C)(C)C | C20H26N2O7
reactant | triethylamine | 2.85 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Z-Thr(tBu)-Gln-Asn-Phe-OCH3 | N([C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C35H48N6O10
